US08053438B2
To a round bottomed flask was added 2-fluoro-3-(tetrahydro-2H-pyran-4-yl)pyrazine (1.1147 g, 6.12 mmol), 4-aminophenol (0.801 g, 7.34 mmol), and cesium carbonate (5.98 g, 18.35 mmol) in DMSO (20.39 mL) in DMSO at 110° C. to stir overnight. The reaction was allowed to cool to room temperature. The reaction mixture was diluted with water and extracted with DCM. The organic extract was washed with 50% sodium chloride solution, dried with magnesium sulfate, filtered, and concentrated. The crude product was adsorbed onto a plug of silica gel and chromatographed through a Biotage pre-packed silica gel column (40M), eluting with a gradient of 1% to 5% MeOH in DCM, to provide 4-(3-(tetrahydro-2H-pyran-4-yl)pyrazin-2-yloxy)aniline. [M+H]=272.1.

reactant | 2-fluoro-3-(tetrahydro-2H-pyran-4-yl)pyrazine | 6.12 mmol, 1.1147 g | FC1=NC=CN=C1C1CCOCC1 | C9H11FN2O
reactant | 4-aminophenol | 7.34 mmol, 0.801 g | NC1=CC=C(C=C1)O | C6H7NO
reactant | cesium carbonate | 18.35 mmol, 5.98 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMSO | 20.39 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 4-(3-(tetrahydro-2H-pyran-4-yl)pyrazin-2-yloxy)aniline | O1CCC(CC1)C=1C(=NC=CN1)OC1=CC=C(N)C=C1 | C15H17N3O2
